US07504411B2
A suspension of (S)-2-(4-bromophenyl)-1,4-di(t-butoxycarbonyl) piperazine (1.21 g, 2.75 mmol), N-methylcyclohexylamine (0.43 mL, 3.30 mmol), palladium acetate (25 mg, 0.11 mmol), 2-(di-t-butylphosphino)biphenyl (66 mg, 0.22 mmol), and sodium t-butoxide (370 mg, 3.85 mmol) in t-butanol (15 mL) was heated at 80° C. for 8 h. The resulting solution was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting 10-15% ethyl acetate-hexane to afford (S)-1,4-di(t-butoxycarbonyl)-2-(4-(N-cyclohexyl-N-methylamino)phenyl)piperazine (917 mg) as white crystals.

reactant | (S)-2-(4-bromophenyl)-1,4-di(t-butoxycarbonyl) piperazine | 2.75 mmol, 1.21 g | BrC1=CC=C(C=C1)[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H29BrN2O4
reactant | N-methylcyclohexylamine | 3.30 mmol, 0.43 mL | CNC1CCCCC1 | C7H15N
reactant | 2-(di-t-butylphosphino)biphenyl | 0.22 mmol, 66 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 3.85 mmol, 370 mg | CC(C)([O-])C.[Na+]
solvent | t-butanol | 15 mL | C(C)(C)(C)O | C4H10O
catalyst | palladium acetate | 0.11 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-1,4-di(t-butoxycarbonyl)-2-(4-(N-cyclohexyl-N-methylamino)phenyl)piperazine | 917 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N(C)C1CCCCC1 | C27H43N3O4
